US07960376B2
Step 3: Preparation of methyl 4-(4-chloro-2-methylbutan-2-ylthio)-3-nitrobenzoate
To a solution of 4-(4-chloro-2-methylbutan-2-ylthio)-3-nitrobenzoyl chloride (3.48 g, 10.8 mmol) in MeOH (200 mL) was added triethylamine (15.05 mL, 108 mmol). The reaction was stirred at room temperature for 3 hours. The solvent was removed under reduced pressure. The resulting paste was diluted with EtOAc (200 mL) and washed with saturated aqueous NaHCO3 (75 mL). The organic layer was dried over Na2SO4 and concentrated in vacuo. The resulting solid was used without further purification.

reactant | 4-(4-chloro-2-methylbutan-2-ylthio)-3-nitrobenzoyl chloride | 10.8 mmol, 3.48 g | ClCCC(C)(SC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-])C | C12H13Cl2NO3S
reactant | triethylamine | 108 mmol, 15.05 mL | C(C)N(CC)CC | C6H15N
reactant | MeOH | 200 mL | CO | CH4O
product | methyl 4-(4-chloro-2-methylbutan-2-ylthio)-3-nitrobenzoate | ClCCC(C)(SC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])C | C13H16ClNO4S
